US04011230
A solution of acetonyl dimethyldithiocarbamate (3.6 grams, 0.020 mole), formaldehyde (1.6 grams of 37% aqueous solution, 0.020 mole), carbon disulfide (0.010 mole, 0.8 gram), and dimethylammonium dimethyldithiocarbamate (3.3 grams, 0.02 mole) in methanol (15 ml.) was stirred and heated at 39° C.-43° C. for 160 minutes. The reaction mixture was then cooled in ice and the precipitated product was filtered off, washed with cold methanol, and dried in air. The yield of product melting at 104° C.-106.5° C. (prior sintering) was 5.2 grams (84%). Repeated recrystallization from methylene chloride-methanol solution without heat gave the analytical sample of 1-acetylethylene dimethyldithiocarbamate melting at 105° C.-107.5° C. (prior sintering). The structure was determined from the infrared spectrum and elemental analysis.

reactant | acetonyl dimethyldithiocarbamate | 0.020 mole, 3.6 grams | CN(C(SCC(=O)C)=S)C | C6H11NOS2
reactant | formaldehyde | 0.020 mole, 1.6 grams | C=O | CH2O
reactant | carbon disulfide | 0.010 mole, 0.8 gram | C(=S)=S | CS2
reactant | dimethylammonium dimethyldithiocarbamate | 0.02 mole, 3.3 grams | CN(C([S-])=S)C.C[NH2+]C
solvent | methanol | 15 ml | CO | CH4O
product | 1-acetylethylene dimethyldithiocarbamate | CN(C(S)=S)C.C(C)(=O)C=C | InChI=1S/C4H6O.C3H7NS2/c1-3-4(2)5;1-4(2)3(5)6/h3H,1H2,2H3;1-2H3,(H,5,6)
